US07888362B2
By a similar method as in Example 1, 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one was prepared from 7-(4-chlorobutoxy)-2-methyl-3,4-dihydro-2H-isoquinolin-1-one, and after it was made into a methanol solution, 0.5N hydrochloric acid methanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from a mixed solvent of methanol-ethyl acetate and thereby 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one hydrochloride was obtained in the form of a white powder.

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCN(C(C1=C2)=O)C | C26H31N3O2S
reactant | 7-(4-chlorobutoxy)-2-methyl-3,4-dihydro-2H-isoquinolin-1-one | ClCCCCOC1=CC=C2CCN(C(C2=C1)=O)C | C14H18ClNO2
reactant | hydrochloric acid methanol | 0.5N | CO.Cl
solvent | methanol | CO | CH4O
product | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCN(C(C1=C2)=O)C | InChI=1S/C26H31N3O2S.ClH/c1-27-12-9-20-7-8-21(19-23(20)26(27)30)31-17-3-2-11-28-13-15-29(16-14-28)24-5-4-6-25-22(24)10-18-32-25;/h4-8,10,18-19H,2-3,9,11-17H2,1H3;1H
